US06448031B1
Z-Ser-OH 23.9 g and 23.2 g of H-Tyr-OMe were dissolved in 50 mL of DMF, 12.7 g of HOSu and 20 mL of WSC were added to the solution, then the mixture was stirred at 0° C. for 5 minutes then at room temperature overnight. After confirmation with ninhydrin, the reaction mixture was concentrated under reduced pressure. Ethyl acetate 500 mL was added to the residue, and the mixture was washed twice with 200 mL of 1N hydrochloric acid, twice with 200 mL of saturated aqueous sodium bicarbonate, twice with saturated saline, in this order. The ethyl acetate layer was concentrated under reduced pressure. The residue was solidified by treatment with hexane. Thus 38.44 g of Z-Ser-Tyr-OMe (92.3% yield) was obtained.

reactant | Z-Ser-OH | 23.9 g | N([C@@H](CO)C(=O)O)C(=O)OCC1=CC=CC=C1 | C11H13NO5
reactant | H-Tyr-OMe | 23.2 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC | C10H13NO3
reactant | HOSu | 12.7 g | ON1C(=O)CCC1=O | C4H5NO3
reactant | WSC | 20 mL | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | Z-Ser-Tyr-OMe | 38.44 g, 92.3% yield | N([C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C21H24N2O7
